US07700633B2
Thionyl chloride (20 mL) is added dropwise to a mixture of 2,4,N-trihydroxy-5-nitrobenzamide (6.7 g, 31.3 mmol) in THF (500 mL). The mixture is allowed to come to reflux during the addition and then heated at 55° C. for 18 h. The mixture is allowed to cool to room temperature. The insoluble precipitate is filtered off and the filtrate is concentrated and stripped twice with toluene to a give 4-nitro-6-(2-oxo-[1,3,2,4]dioxathiazol-5-yl)-benzene-1,3-diol as a gummy solid. To a suspension of the solid in dioxane (100 mL) is added dropwise triethylamine (16.9 mL, 121 mmol). After stirring at room temperature for 45 min, ice and water are added and the mixture is acidified with 1N HCl. The mixture is extracted twice with EtOAc and the organic layers are washed with 1N HCl and brine, and dried over MgSO4, filtered and concentrated. The crude material is purified using flash chromatography on silica gel eluting with 1:1 EtOAc/hexanes to afford 5-nitrobenzo[d]isoxazole-3,6-diol as a yellow solid: (M−H)−=195.1.

reactant | Thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2,4,N-trihydroxy-5-nitrobenzamide | 31.3 mmol, 6.7 g | OC1=C(C(=O)NO)C=C(C(=C1)O)[N+](=O)[O-] | C7H6N2O6
reactant | triethylamine | 121 mmol, 16.9 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N | Cl | ClH
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 5-nitrobenzo[d]isoxazole-3,6-diol | [N+](=O)([O-])C=1C(=CC2=C(C(=NO2)O)C1)O | C7H4N2O5
